US04337250
1-(4-Bromo-1-butyl)-1,2,3,6-tetrahydro-3,6-pyridazinedione
By the method of Example 1, 3,6-dihydroxypyridazine is reacted with 1,4-dibromobutane to yield the title product.

reactant | 3,6-dihydroxypyridazine | OC=1N=NC(=CC1)O | C4H4N2O2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromo-1-butyl)-1,2,3,6-tetrahydro-3,6-pyridazinedione | BrCCCCN1NC(C=CC1=O)=O | C8H11BrN2O2
